US09278915B2
Intermediate 109: Ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-methoxy phenyl]propanoate
To a 25 mL RB flask fitted with a magnetic stirrer was charged with Toluene (1 mL). To the stirred solvent were added (3,5-dimethyl-1,2-oxazol-4-yl)boronic acid (0.059 g, 0.42 mmol), ethyl 3-(2-bromo-4-methoxyphenyl)propanoate (0.08 g, 0.28 mmol), sodium bicarbonate (0.5 mL, 2M solution) in ethanol (1 mL) under argon atmosphere. After addition, the reaction mixture was purged with argon for 15 minutes. To the reaction mixture was added tetrakis (triphenylphosphine) palladium (0) (0.016 g, 0.01 mmol) and purged with argon for 10 minutes. After addition, the reaction mixture was heated at 95° C. for 5 h under argon atmosphere. After completion of the reaction, the reaction mixture was quenched with water (10 mL) and extracted with ethyl acetate (10 mL). The organic layer was washed with water (5 mL) and brine solution (5 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude product (0.08 g, yield: 94.10%) was taken for next step with out purification.

reactant | Toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | (3,5-dimethyl-1,2-oxazol-4-yl)boronic acid | 0.42 mmol, 0.059 g | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | ethyl 3-(2-bromo-4-methoxyphenyl)propanoate | 0.28 mmol, 0.08 g | BrC1=C(C=CC(=C1)OC)CCC(=O)OCC | C12H15BrO3
reactant | sodium bicarbonate | 2M, 0.5 mL | C([O-])(O)=O.[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.01 mmol, 0.016 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-methoxy phenyl]propanoate | 0.08 g, yield: 94.10% | CC1=NOC(=C1C1=C(C=CC(=C1)OC)CCC(=O)OCC)C | C17H21NO4
